US07786132B2
(iii) 4-(5-Benzyl-1,3,4-thiadiazol-2-yl)-5-chloro-2-(methylthio)pyrimidine
Lawesson's Reagent (0.487 g (1.2 mmol) and 5-chloro-2-(methylthio)-N′-(2-phenyl-acetyl)pyrimidine-4-carbohydrazide (0.442 g, 1.2 mmol) were dissolved in 8 mL pyridine. This solution was heated to 100° C. for 30 h, giving −50% conversion. Upon cooling, the reaction mixture was diluted with excess H2O. The aqueous layer was extracted with EtOAc. The combined organic layers were dried with magnesium sulfate and concentrated under vacuum. Flash chromatography was used to obtain 0.190 g (47% yield) product as a brown solid. MS (M+H)+ 335.

reactant | Lawesson's Reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 5-chloro-2-(methylthio)-N′-(2-phenyl-acetyl)pyrimidine-4-carbohydrazide | 1.2 mmol, 0.442 g | ClC=1C(=NC(=NC1)SC)C(=O)NNC(CC1=CC=CC=C1)=O | C14H13ClN4O2S
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
solvent | H2O | O | H2O
product | 4-(5-Benzyl-1,3,4-thiadiazol-2-yl)-5-chloro-2-(methylthio)pyrimidine | 0.190 g, 47% yield | C(C1=CC=CC=C1)C1=NN=C(S1)C1=NC(=NC=C1Cl)SC | C14H11ClN4S2
